Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Penicillins / Codeine / Inderal / Isordil Titradose / 
Iodine-Iodine Containing / Celexa / Glucophage / Atorvastatin / 
Dilaudid (PF) / Vioxx / Levofloxacin / Hydralazine And 
Derivatives / Ondansetron / Carbapenem / Lidocaine / 
Nortriptyline / Fosfomycin / Morphine / Trimethoprim / Latex
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with CAD, HTN, Type II DM, CKD 
and a history of bradycardia with Wenckebach rhythm, CVA, s/p 
DVT with indwelling IVC filter w/o coumadin, presenting with 
___ substernal chest pressure radiating to the left arm as well 
as jaw while waiting for dermatology appointment.  
In the ED, initial vitals were 98.6 76 150/82 16 98% 2L NC  
Labs and imaging significant for clear CXR, Cr 1.2 (baseline), 
troponin T <0.01  
Patient started on nitro gtt, heparin bolus and gtt, started on 
2L n/c and was transferred to floor for further w/u.  
Vitals on transfer were 97.1, 73, 134/60, 24, 93% 2L  
.  
On arrival to the floor, patient denies CP, states has improved. 
She only notes feeling of general malaise. Denies DOE, SOB, 
cough, F/C/S. She notes that the pain had started at about 
10:45, and remained constant until about 4pm when it improved.  
.  
Pt had admission for chest pain ___, was ruled out for MI 
with echo and CE, felt to have large anxiety component to pain 
at that time.  
REVIEW OF SYSTEMS  
On review of systems, she denies any prior history of pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. She denies 
recent fevers, chills or rigors. She denies exertional buttock 
or calf pain. All of the other review of systems were negative.  

.  
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
- CAD: Cardiac cath ___ showed 50% mid LAD, 50% OM1 lesions c/b 

coronary aneurysm
- HTN  
- Diabetes mellitus, type 2
- CRI: baseline creatinine 0.9-1.2
- Asymptomatic bradycardia w/ ___ rhythm in past
- s/p CVA with residual left sided weakness in ___  
- h/o DVT in ___ post-op from back surgery, s/p IVC filter  
- L1-2 discectomy, L5-S1 fusion, R sided L2-3 and L3-4 w/ 
residual right leg weakness, now wheelchair bound when going 
outside but uses a walker at home
- Cervical stenosis on ___ MRI: mild stenosis C3-4, moderate 

stenosis C4-5, C5-6
- Foraminotomy
- Recurrent UTIs, on chronic suppressive methenamine  
- Arthritis  
- Cervical spondylosis  
- Osteoporosis  
- GERD
- s/p: appendectomy, hysterectomy, tonsillectomy, lap 
cholecystectomy in ___, cataract surgery x 2
 
Social History:
___
Family History:
Mother died at age ___ of CAD. Father died ___ CAD. 2 brothers 
died at ___ of CAD. Sister: ___. Sister: lung cancer. 3 
brothers: diabetes and CAD. 3 daughters: 1 with "hole in her 
heart", 1 with learning disability, 1 died of melanoma ___ years 
ago.
 
Physical Exam:
Admission PE:
GENERAL: ___ F in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma. 
No Carotid Bruits.  
NECK: Supple with JVP of 2 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Few crackles b/l at the 
bases  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

Discharge PE:
T 97.6 126/66 HR 78 RR 20 96% RA
GENERAL: WDWN F in NAD. Oriented x3. Mood, affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma. 
No Carotid Bruits.  
NECK: Supple with JVP of 2 cm.  
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No m/r/g. No thrills, lifts. No S3 or 
S4.  
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. Few crackles b/l at the 
bases  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES:  
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+  

 
Pertinent Results:
___ 11:45AM BLOOD WBC-6.1 RBC-3.45* Hgb-10.8* Hct-31.8* 
MCV-92 MCH-31.3 MCHC-34.0 RDW-13.7 Plt ___
___ 11:45AM BLOOD Neuts-60.5 ___ Monos-6.3 Eos-1.8 
Baso-0.7
___ 11:45AM BLOOD ___ PTT-20.5* ___
___ 11:45AM BLOOD Glucose-277* UreaN-18 Creat-1.2* Na-140 
K-4.5 Cl-104 HCO3-26 AnGap-15
___ 08:45PM BLOOD CK(CPK)-48
___ 11:45AM BLOOD cTropnT-<0.01
___ 08:45PM BLOOD CK-MB-2 cTropnT-<0.01
___ 06:13AM BLOOD Calcium-8.7 Phos-4.1 Mg-2.0
UA negative

___ CXR: No acute cardiopulmonary process

Discharge labs:

___ 06:13AM BLOOD WBC-6.0 RBC-3.30* Hgb-10.3* Hct-30.7* 
MCV-93 MCH-31.3 MCHC-33.7 RDW-13.8 Plt ___
___ 06:13AM BLOOD ___ PTT-69.1* ___
___ 06:13AM BLOOD Plt ___
___ 06:13AM BLOOD Glucose-156* UreaN-15 Creat-1.1 Na-141 
K-4.2 Cl-108 HCO___ AnGap-___ year old female with CAD, HTN, Type II DM, CKD and a history 
of bradycardia with ___ rhythm, CVA, s/p DVT with 
indwelling IVC filter w/o coumadin, presenting with ___ left 
sided jaw, neck, chest, torso pain lasting for ___ hours.  

# Atypical chest pain: Has long history of chest pain with 
previous cath in ___ showing normal arteries and stress echo in 
___ showing evidence of old infarct with no inducible 
ischemia. CE negative x2. No acute changes on EKG. Has long 
history of similar pain. Given history, ACS is possible and she 
was ruled out with enzymes and seriel EKGs. Other possibilities 
included anxiety/psychosomatic component which has been 
documented in past. She has cervical stenosis which may have had 
component. ___ have had musculoskeletal sprain/strain/pull.  PE 
was unlikely given no tachycardia, no pleuritic component, no 
s/s DVT, s/p IVC filter. Pna unlikely given no infiltrate on 
CXR, no cough, no F/C/S.
--On the floor she was weaned off nitro gtt with no return of 
her pain, and stopped heparin. No events noted on telemetry.  
ticlopidine was continued as pt allergic to asa.  Simvastatin 
was continued - patient had a documented allergy as "elevated 
CPK" however pt has been on this medication at home for some 
time without documented CPK elevations. No issues while in 
house.  Acetaminophen was used PRN for pain, further analgesic 
options were limited given extensive allergy list.  No beta 
blocker was started as patient has documented allergy to 
propanolol.  Patient had a negative UA and UTI was unlikely 
cause.
  
#nausea: was controlled with home prn compazine.  

# Normocytic anemia: stable  during admission
 
# Hypertension: patient not currently treated, has been on ACE-I 
in past but blood pressures were controlled while in house.
 
# Diabetes Mellitus Type II- stable on sliding scale insulin in 
house
# CKD - At baseline. Cr remained stable.  
# H/o cerebrovascular accident - stable. continued ticlopidine.  

# GERD - stable. continued home omeprazole.  
.  
FEN: Cardiac Heart Healthy  
.  
ACCESS: PIV's  while in house
.  
PROPHYLAXIS:  
-DVT ppx with heparin gtt followed by sub cutaneous heparin.  
-Pain management with tylenol  
-Bowel regimen with senna/colace  
.  
CODE: full  

Transitional issues:
-Atypical chest pain:  Felt very unlikely to be cardiac.  
Definitive diagnosis was difficult.  She does have previously 
diagnosed CAD, but does not tolerate beta blockers or aspirin.
-Social work/psych:  ___ benefit from seeing a therapist 
regarding anxiety. This has been broached with her in the past 
and may be worth speaking to her about again.
 
Medications on Admission:
1. gabapentin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime).  
2. gabapentin 300 mg Capsule Sig: One (1) Capsule PO QAM (once a 

day (in the morning)).  
3. meclizine 12.5 mg Tablet Sig: One (1) Tablet PO three times a 

day as needed for dizziness.  
4. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
5. prochlorperazine maleate 5 mg Tablet Sig: One (1) Tablet PO 
every six (6) hours as needed for nausea.  
6. simvastatin 40 mg Tablet Sig: One (1) Tablet PO once a day.  
7. alum-mag hydroxide-simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed for heartburn.  
8. ticlopidine 250 mg Tablet Sig: One (1) Tablet PO BID (2 times 

a day).  
9. Lantus 100 unit/mL Solution Sig: Fifteen (15) units 
Subcutaneous at bedtime.

 
Discharge Medications:
1. gabapentin 100 mg Capsule Sig: One (1) Capsule PO HS (at 
bedtime). Capsule(s) 
2. gabapentin 300 mg Capsule Sig: One (1) Capsule PO QAM (once a 
day (in the morning)).  
3. omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
4. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for Nausea.  
5. ticlopidine 250 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
6. meclizine 12.5 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for nausea.  
7. Lantus 100 unit/mL Solution Sig: Fifteen (15) Units 
Subcutaneous At bedtime.  
8. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Atypical chest pain with normal cardiac enzymes and no 
electrocardiogram changes.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,
It was a pleasure taking care of you in the hospital.  You were 
admitted for chest pain.  The major concern was that this was 
related to your heart.  All the testing done, including lab work 
and EKGs were very reassuring and it was unlikely this was 
related to a problem with your heart.  It may have been related 
to your cervical stenosis or it may have been a muscle pull, 
strain, or sprain.  You should keep taking all of your 
medications exactly as prescribed.

 
Followup Instructions:
___